US08580794B2
3-nitro-4-((1-(oxetan-3-yl)piperidin-4-yl)methoxy)benzenesulfonamide
To a suspension of 3-nitro-4-(piperidin-4-ylmethoxy)benzenesulfonamide (0.100 g) and cyclobutanone (0.030 g) in methanol (1 mL) was added sodium cyanoborohydride (0.027 g). After stirring overnight, the reaction was quenched with saturated NaHCO3 (5 mL) and extracted into dichloromethane (2×10 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated to give the title compound.

reactant | 3-nitro-4-(piperidin-4-ylmethoxy)benzenesulfonamide | 0.100 g | [N+](=O)([O-])C=1C=C(C=CC1OCC1CCNCC1)S(=O)(=O)N | C12H17N3O5S
reactant | cyclobutanone | 0.030 g | C1(CCC1)=O | C4H6O
reactant | sodium cyanoborohydride | 0.027 g | C(#N)[BH3-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 3-nitro-4-((1-(oxetan-3-yl)piperidin-4-yl)methoxy)benzenesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1OCC1CCN(CC1)C1COC1)S(=O)(=O)N | C15H21N3O6S
